datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Oc1ccc(-c2nnn[n:21]2[H:20])cc1.c1coc(C2C[N:10]3CCC2CC3)c1>>Oc1ccc(-c2nnn[n-:21]2)cc1.c1coc(C2C[N+:10]3([H:20])CCC2CC3)c1 10=20;20,21=21",
"CC1=CC(=Nc2ccc([O:21][H:20])cc2)C=C(C)C1=O.c1ccc(C(=N[O-:10])c2ccccc2)cc1>>CC1=CC(=Nc2ccc([O-:21])cc2)C=C(C)C1=O.c1ccc(C(=N[O:10][H:20])c2ccccc2)cc1 10=20;20,21=21",
"C=C(C)C(=O)OCC[NH:10]CCCC.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C=C(C)C(=O)OCC[NH+:10](CCCC)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=CN1CC[NH:10]CC1.O=[N+]([O-])[N:21](c1nnn[nH]1)[H:20]>>O=CN1CC[NH+:10]([H:20])CC1.O=[N+]([O-])[N-:21]c1nnn[nH]1 10=20;20,21=21",
"CCSC(C)[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(Cl)C=C2)[H:20])C=C1>>CCSC(C)[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(Cl)C=C2)C=C1 10=20;20,21=21",
"CCCCNc1cc[n+:21]([H:20])c2cccc([N+](=O)[O-])c12.Cc1c(C)c([O-:10])c(C)c(C)c1O>>CCCCNc1cc[n:21]c2cccc([N+](=O)[O-])c12.Cc1c(C)c([O:10][H:20])c(C)c(C)c1O 10=20;20,21=21",
"CCN(CC)c1nc(N)[n+:21]([H:20])c(N)n1.O=CN1CC[NH:10]CC1>>CCN(CC)c1nc(N)[n:21]c(N)n1.O=CN1CC[NH+:10]([H:20])CC1 10=20;20,21=21",
"CCCC(=O)OC(C)C[N:10](C)C.O=[N+]([O-])c1cccc([S:21][H:20])c1>>CCCC(=O)OC(C)C[N+:10](C)(C)[H:20].O=[N+]([O-])c1cccc([S-:21])c1 10=20;20,21=21",
"Cc1cc([C@@H](N)CO)c(O)c([C@H](CO)[NH2:10])c1.S=C(c1ccccc1)[N:21](Cc1ccccc1)[H:20]>>Cc1cc([C@@H](N)CO)c(O)c([C@H](CO)[NH2+:10][H:20])c1.S=C(c1ccccc1)[N-:21]Cc1ccccc1 10=20;20,21=21",
"COc1ccc(O)c(C[NH2+]C(CO)C(=O)[O:21][H:20])c1.O=[N+]([O-])c1ccc2cc([O-:10])ccc2c1>>COc1ccc(O)c(C[NH2+]C(CO)C(=O)[O-:21])c1.O=[N+]([O-])c1ccc2cc([O:10][H:20])ccc2c1 10=20;20,21=21",
"Ic1ccc(-c2nnn[n:21]2[H:20])cc1.NC(=O)C[C@H](NC(=O)[C@H](CS)[NH2:10])C(=O)O>>Ic1ccc(-c2nnn[n-:21]2)cc1.NC(=O)C[C@H](NC(=O)[C@H](CS)[NH2+:10][H:20])C(=O)O 10=20;20,21=21",
"CCC(O)C[N+:21](CC)(CCO)[H:20].C[C@@]12CC(=O)N[C@]1(CCC(=O)[O-])C(=O)[N-:10]C2=O>>CCC(O)C[N:21](CC)CCO.C[C@@]12CC(=O)N[C@]1(CCC(=O)[O-])C(=O)[N:10]([H:20])C2=O 10=20;20,21=21",
"Cc1cc(-c2ccccc2)nn2c(C[N:10]3CCOCC3)cnc12.O=[N+]([O-])c1cccc(O)c1[O:21][H:20]>>Cc1cc(-c2ccccc2)nn2c(C[N+:10]3([H:20])CCOCC3)cnc12.O=[N+]([O-])c1cccc(O)c1[O-:21] 10=20;20,21=21",
"CN(C)c1ccc([N-:10]C=S)cc1.O=C(c1cccc(-c2nnn[nH]2)c1)[O:21][H:20]>>CN(C)c1ccc([N:10](C=S)[H:20])cc1.O=C(c1cccc(-c2nnn[nH]2)c1)[O-:21] 10=20;20,21=21",
"CCC(C)[NH:10]CC(C)C.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CCC(C)[NH+:10](CC(C)C)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CN/C(c1ccccc1)=[S+:21]\[H:20].Cc1cc2c(cc1[N+](=O)[O-])c(NCCC[NH+](C)C)cc[n:10]2>>CNC(c1ccccc1)=[S:21].Cc1cc2c(cc1[N+](=O)[O-])c(NCCC[NH+](C)C)cc[n+:10]2[H:20] 10=20;20,21=21",
"CC1=C(CC(C)[NH+:21](CC(O)c2ccc(Br)cc2)[H:20])CCC1(C)C.[NH3+]CCC(=O)NC(Cc1c[n:10]c[nH]1)C(=O)[O-]>>CC1=C(CC(C)[NH:21]CC(O)c2ccc(Br)cc2)CCC1(C)C.[NH3+]CCC(=O)NC(Cc1c[n+:10]([H:20])c[nH]1)C(=O)[O-] 10=20;20,21=21",
"C[NH+](C)CC[NH2:10].O=Cc1ncnc2c1[nH]c[n+:21]2[H:20]>>C[NH+](C)CC[NH2+:10][H:20].O=Cc1ncnc2c1[nH]c[n:21]2 10=20;20,21=21",
"C=C[C@H]1C[NH+]2CC[C@@H]1C[C@H]2[C@H](O)c1cc[n+:21]([H:20])c2ccc(OC)cc12.CN(C)CC[N:10](C)C>>C=C[C@H]1C[NH+]2CC[C@@H]1C[C@H]2[C@H](O)c1cc[n:21]c2ccc(OC)cc12.CN(C)CC[N+:10](C)(C)[H:20] 10=20;20,21=21",
"CC[N+](CC)(CC)[O:21][H:20].CN1c2ccccc2[NH:10]c2ccc(O)cc21>>CC[N+](CC)(CC)[O-:21].CN1c2ccccc2[NH+:10]([H:20])c2ccc(O)cc21 10=20;20,21=21",
"O=S1(=O)OC(c2cc(Br)c(O)c(Br)c2)(c2cc(Br)c([O-:10])c(Br)c2)c2ccccc21.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=S1(=O)OC(c2cc(Br)c(O)c(Br)c2)(c2cc(Br)c([O:10][H:20])c(Br)c2)c2ccccc21.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[N+](C)(c1ccccc1)[O-:10].[NH3+]CCc1c[nH]c[n+:21]1[H:20]>>C[N+](C)(c1ccccc1)[O:10][H:20].[NH3+]CCc1c[nH]c[n:21]1 10=20;20,21=21",
"CCCCn1c[n:10]c2ccccc21.Cc1cccc(OC(CBr)(c2ccccc2)[O:21][H:20])c1>>CCCCn1c[n+:10]([H:20])c2ccccc21.Cc1cccc(OC(CBr)(c2ccccc2)[O-:21])c1 10=20;20,21=21",
"CCC(=O)/C=N/[O:21][H:20].CCC(O)C[N:10](C)CC(C)O>>CCC(=O)/C=N/[O-:21].CCC(O)C[N+:10](C)(CC(C)O)[H:20] 10=20;20,21=21",
"Cc1cc2c(cc1[NH2:10])Sc1cc([NH+](C)C)ccc1N2.c1c[nH+]c(P(c2[nH]cc[nH+]2)c2[nH]cc[n+:21]2[H:20])[nH]1>>Cc1cc2c(cc1[NH2+:10][H:20])Sc1cc([NH+](C)C)ccc1N2.c1c[nH+]c(P(c2[nH]cc[nH+]2)c2[nH]cc[n:21]2)[nH]1 10=20;20,21=21",
"Clc1cc(I)c([O-:10])c2ncccc12.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Clc1cc(I)c([O:10][H:20])c2ncccc12.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CN1C(=S)[N-:10]c2cncnc21.Cc1nc([N:21](S(=O)(=O)c2ccc(N)cc2)[H:20])no1>>CN1C(=S)[N:10]([H:20])c2cncnc21.Cc1nc([N-:21]S(=O)(=O)c2ccc(N)cc2)no1 10=20;20,21=21",
"CCCCN(C(=O)c1ccc([O:21][H:20])cc1)c1ccc(/N=N/c2ccc3c(c2)OCCOCCOCCOCCOCCO3)cc1.Nc1ccc(S(=O)(=O)[N-:10]c2ccccc2)cc1>>CCCCN(C(=O)c1ccc([O-:21])cc1)c1ccc(/N=N/c2ccc3c(c2)OCCOCCOCCOCCOCCO3)cc1.Nc1ccc(S(=O)(=O)[N:10](c2ccccc2)[H:20])cc1 10=20;20,21=21",
"CC[NH2+]C(C)C(=O)[O:21][H:20].[SH2+]c1cccc2c1ccc[n:10]2>>CC[NH2+]C(C)C(=O)[O-:21].[SH2+]c1cccc2c1ccc[n+:10]2[H:20] 10=20;20,21=21",
"CSc1ccc([NH2+:21][H:20])cc1Cl.C[N:10](C)CCCCC(=O)Oc1ccccc1>>CSc1ccc([NH2:21])cc1Cl.C[N+:10](C)(CCCCC(=O)Oc1ccccc1)[H:20] 10=20;20,21=21",
